US06124479
Boron trifluoride-diethyl ether complex (0,9 ml,0.007 ml) was dropped in benzyl alcohol (92 ml) of glycidol (22.01 g, 0.3 mol) on ice bath. After dropping the mixture was stirred for 8 hours at 25° C. After the reaction was over, triethylamine was added thereto and benzyl alcohol was removed in vacuo. The desidue was dissolved in acetone and thereto p-toluenesulfonic acid was added. The mixture was reacted for 8 hours at 25° C. After the completion of the reaction triethylamine was added thereto and acetone was removed in vacuo. The crude product was distilled to give a mixture (43.8 g, yield 81%) of 4-benzyloxymethyl-2,2-dimethyl-1,3-dioxolane and 5-benzyloxymethyl-2,2-dimethyl-1,3-dioxane. The ratio of the dioxolane and the dioxane was 8 to 1 by analysis with gas chromatography.

reactant | glycidol | 0.3 mol, 22.01 g | C1C(O1)CO | C3H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 5-benzyloxymethyl-2,2-dimethyl-1,3-dioxane | C(C1=CC=CC=C1)OCC1COC(OC1)(C)C | C14H20O3
solvent | benzyl alcohol | 92 ml | C(C1=CC=CC=C1)O | C7H8O
product | 4-benzyloxymethyl-2,2-dimethyl-1,3-dioxolane | 43.8 g, yield 81% | C(C1=CC=CC=C1)OCC1OC(OC1)(C)C | C13H18O3
